Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
leg swelling
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Ms. ___ is a ___ female with the past medical
history noted below who presents for evaluation of bilateral
lower extremity swelling.  The patient reports that she was in
her usual state of health until approximately ___ weeks ago.  
She
reports that at around that time she had started taking no new
medications.  She reports that she woke up and she had right
lower extremity swelling was worse on ambulation.  She reports
that it is in both legs but worse on the right.  She reports 
that
she has continued to have some shortness of breath with the
change in seasons as cold weather makes her have some difficulty
breathing.  She really denies any recent long car trips.  She
denies any fevers, chills, headache, nausea, vomiting, diarrhea
or dysuria.  Given the lower extremity swelling she presented to
the emergency department for further evaluation.

In the emergency department she was seen and evaluated.  Her 
labs
were notable for a white count of 6.6, hemoglobin and hematocrit
of ___ which is down from 9.5/32.5 from ___, normal INR,
normal Chem-7, albumin 4.0, normal LFTs, normal troponin, normal
BNP, and a chest x-ray was notable for a enlarged cardiac
silhouette concerning for an underlying pericardial effusion. 
There is no parenchymal changes.  There is no pulmonary edema. 
The patient then underwent unilateral right lower extremity
ultrasound that was negative for clot.  She underwent a bedside
ultrasound which showed somewhere between a small and
moderate-sized pericardial effusion and so she was referred for
admission to the medical service.  ED reports that he discussed
the case with the cardiology fellow who reported that medicine
could consult cardiology on admission if necessary.

On arrival to the floor the patient confirms the above history. 
She reports that she is otherwise feeling okay.  She denies any
current shortness of breath.  She otherwise reports that she is
doing well.  She reports that the diagnosis of rheumatoid
arthritis was made somewhere between age ___ and ___.  She is
uncertain about how was made but reports that she had bilateral
knee pain as well as right hand wrist and finger pain.  She
reports that she has never been on any immunomodulators and has
tried Tylenol arthritis in the past without success.  She 
reports
that she has had injections that were also unsuccessful in
treating the pain.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
Hypertension
Questionable adult onset asthma
Possible rheumatoid arthritis not on any treatment
 
Social History:
___
Family History:
Mother with arthritis of some sort.
 
Physical Exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD not able to
appreciate given body habitus.  Mild to moderate lower extremity
edema up to the knee bilaterally worse on the right than on the
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, obese there is, non-tender to palpation.  
Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
TTE ___
Conclusions
Due to suboptimal technical quality, a focal wall motion 
abnormality cannot be fully excluded. Overall left ventricular 
systolic function is normal (LVEF>55%). There is no pericardial 
effusion. There is an anterior space which most likely 
represents a prominent fat pad. 

IMPRESSION: No pericardial effusion. Normal overall left 
ventricular systolic funciton. Limited study. 

RLE Duplex
FINDINGS: 
There is normal compressibility, flow, and augmentation of the 
right common
femoral, femoral, and popliteal veins. Normal color flow and 
compressibility
are demonstrated in the posterior tibial and peroneal veins.
There is normal respiratory variation in the common femoral 
veins bilaterally.
No evidence of medial popliteal fossa (___) cyst.
IMPRESSION: 
No evidence of deep venous thrombosis in the right lower 
extremity veins.
 
Brief Hospital Course:
Ms. ___ is a ___ female with the past medical history 
and findings noted above who presented with ___ edema R>L. 

# Possible Pericardial effusion: formal TTE on the floor did not 
show any evidence of pericardial effusion
# ___ Edema: Duplex US of RLE negative
Surface TTE, limited but without evidence of any pericardial 
effusion. 
#chest pain - negative cardiac enzymes, no ecg changes. pain 
more consistent with GERD
Suspect patient has chronic venous insufficiency, for which she 
was given a script for TEDs stockings and advised to follow up 
with her PCP.
Patient was feeling well the next morning with vital signs 
stable and reassuring exam. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Chlorthalidone 25 mg PO DAILY 

 
Discharge Medications:
1.  T.E.D. Knee Length-M-Long (compr.stocking,knee,long,small) 1 
pair miscellaneous QHS 
RX *compr.stocking,knee,long,small [T.E.D. Knee Length-M-Long]  
Please wear at least nightly at bedtime Disp #*1 Each Refills:*0 

2.  Chlorthalidone 25 mg PO DAILY 
RX *chlorthalidone 25 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chronic venous insufficiency
Gastroesophageal reflux disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure to participate in your care.

WHY WAS I ADMITTED TO THE HOSPITAL?
You were admitted to the hospital for leg swelling. 

WHAT HAPPENED WHILE I WAS HERE?
We performed an ultrasound study of both your leg and your 
heart. The ultrasound of the leg did not show any signs of a 
clot in your leg. The formal ultrasound of your heart did NOT 
show any signs of heart failure or any fluid around the lining 
of the heart. We also did some bloodwork and an ECG (a tracing 
of your heart), and this was not concerning for any signs of a 
heart attack. The chest pain you were experiencing is most 
likely heartburn or reflux of acid from the stomach and is 
classically a cause of burning pain in the area of your chest 
that you've been having it. As for the swelling in the legs, it 
is probably related to venous insufficiency which is a chronic 
condition that we usually manage in several ways as below. 

WHAT SHOULD I DO WHEN I GET HOME?
-- elevate your legs as much as possible to reduce swelling
-- continue taking the blood pressure pills which also help 
reduce extra fluid on board
-- we have given you a prescription for special stockings that 
help push the fluid back up. They can be uncomfortable at first 
but they are supposed to be tight in order to do their job. 
-- talk to your doctor about these issues and they can continue 
to manage your symptoms moving forward. 

We wish you the best!
Sincerely,
Your ___ Team

 
Followup Instructions:
___